US08729263B2
N-Phenyltrifluoromethanesulfonimide (2.160 g, 6.05 mmol) was added portionwise to a mixture of 3-methoxy-4-(6-(methyl(2,2,6,6-tetramethylpiperidin-4-yl)amino)pyridazin-3-yl)phenol and triethylamine (1.5 mL, 11 mmol) cooled to 0° C. The mixture was allowed to warm to RT and to stir for 2 h. An additional portion of N-phenyltrifluoromethanesulfonimide (0.30 g, 0.86 mmol) was added and the mixture stirred at RT overnight. The solution was diluted with saturated aqueous NaHCO3 solution and extracted with DCM (2×). The extracts were concentrated and the residue was purified by flash chromatography (40 g silica, 0-25% MeOH gradient in DCM) to provide 3-methoxy-4-(6-(methyl(2,2,6,6-tetramethylpiperidin-4-yl)amino)pyridazin-3-yl)phenyl trifluoromethanesulfonate (1.8 g). MS (M+1)=503.4. 1H NMR (400 MHz, METHANOL-d4) δ ppm 7.85 (d, J=9.6 Hz, 1H), 7.78 (d, J=8.6 Hz, 1H), 7.20 (d, J=9.6 Hz, 1H), 7.17 (d, J=2.5 Hz, 1H), 7.12 (dd, J=8.3, 2.3 Hz, 1H), 5.44-5.59 (m, 1H), 3.92 (s, 3H), 3.04 (s, 3H), 1.98 (m, J=8.1 Hz, 4H), 1.65 (s, 6H), 1.53 (s, 6H).

reactant | N-Phenyltrifluoromethanesulfonimide | 6.05 mmol, 2.160 g | C1=CC=C(C=C1)N(S(=O)(=O)C(F)(F)F)S(=O)(=O)C(F)(F)F | C8H5F6NO4S2
reactant | 3-methoxy-4-(6-(methyl(2,2,6,6-tetramethylpiperidin-4-yl)amino)pyridazin-3-yl)phenol | COC=1C=C(C=CC1C=1N=NC(=CC1)N(C1CC(NC(C1)(C)C)(C)C)C)O | C21H30N4O2
reactant | triethylamine | 11 mmol, 1.5 mL | C(C)N(CC)CC | C6H15N
reactant | N-phenyltrifluoromethanesulfonimide | 0.86 mmol, 0.30 g | C1=CC=C(C=C1)N(S(=O)(=O)C(F)(F)F)S(=O)(=O)C(F)(F)F | C8H5F6NO4S2
solvent | NaHCO3 | C(=O)(O)[O-].[Na+]
product | 3-methoxy-4-(6-(methyl(2,2,6,6-tetramethylpiperidin-4-yl)amino)pyridazin-3-yl)phenyl trifluoromethanesulfonate | 1.8 g | FC(S(=O)(=O)OC1=CC(=C(C=C1)C=1N=NC(=CC1)N(C1CC(NC(C1)(C)C)(C)C)C)OC)(F)F | C22H29F3N4O4S
